US07122711B2
Under a nitrogen atmosphere, 194.4 mg (1.5 mmol) of dry NiCl2 and 303 mg (3 mmol) of triethylamine were added to 29.99 g of toluene and were stirred at room temperature for 10 minutes. Subsequently, 7.41 g (30.0 mol) of 9,10-dichloroanthracene was added at that temperature and reduced-pressure nitrogen replacement was conducted. To the reaction mixture, 3.8 ml (3.8 mmol) of a 1.0 mol/l solution of methylmagnesium bromide in tetrahydrofuran was added and then stirred at 25° C. for another 10 minutes. To the resulting reaction mixture, 69 ml (69 mmol) of a 1 mol/l solution of phenylmagnesium bromide in tetrahydrofuran was added dropwise over 50 minutes and stirred for 4 hours while being heated under reflux. The resulting mixture was washed once with 54.7 g of a saturated aqueous ammonium chloride solution and twice with 50.4 g of ion exchange water. To the organic layer, 50.4 g of methanol was added dropwise and then cooled to room temperature. Crystals formed were separated by filtration, washed with 30.4 g of in ethanol and dried, resulting in 7.97 g of desired 9,10-diphenylanthracene (yield: 80.4%, purity: 99% or higher). No triethylamine was detected in the crystals. The filtrate contained 12%, in terms of yield, of 9,10-diphenylanthracene.

reactant | triethylamine | 3 mmol, 303 mg | C(C)N(CC)CC | C6H15N
reactant | 9,10-dichloroanthracene | 30.0 mol, 7.41 g | ClC=1C2=CC=CC=C2C(=C2C=CC=CC12)Cl | C14H8Cl2
reactant | methylmagnesium bromide | C[Mg]Br
reactant | phenylmagnesium bromide | C1(=CC=CC=C1)[Mg]Br
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | NiCl2 | 1.5 mmol, 194.4 mg | Cl[Ni]Cl
solvent | toluene | 29.99 g | C1(=CC=CC=C1)C | C7H8
product | 9,10-diphenylanthracene | 7.97 g, yield: 80.4% | C1(=CC=CC=C1)C=1C2=CC=CC=C2C(=C2C=CC=CC12)C1=CC=CC=C1 | C26H18
